US06103718
B. 2-(3,4-Dimethoxybenzoyl)[trans]cyclohexanecarboxylic acid
Prepared from trans-cyclohexane-1,2-dicarboxylic anhydride and 1,2-dimethoxybenzene as described for compound A M.p. 202°-205° C.

reactant | trans-cyclohexane-1,2-dicarboxylic anhydride | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | 1,2-dimethoxybenzene | COC1=C(C=CC=C1)OC | C8H10O2
product | 2-(3,4-Dimethoxybenzoyl)[trans]cyclohexanecarboxylic acid | COC=1C=C(C(=O)[C@H]2[C@@H](CCCC2)C(=O)O)C=CC1OC | C16H20O5
